US08604019B2
N-[2-(1,2,3,5-Tetrahydro-4H-1,4-benzodiazepin-4-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 1-1 in Scheme 1 by using 2,4-dichlorothieno[3,2-d]pyrimidine and propane-1,3-diamine, followed by reaction with 2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine. MS obsd. (ESI+) [(M+H)+] 355, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.71 (d, J=5.6 Hz, 1H), 7.37 (d, J=7.1 Hz, 1H), 7.08 (d, J=5.3 Hz, 1H), 7.02-7.07 (m, 1H), 6.79-6.86 (m, 2H), 4.85 (s, 2H), 4.04-4.09 (m, 2H), 3.73 (t, J=6.6 Hz, 2H), 3.20-3.24 (m, 2H), 2.86-2.92 (m, 2H), 1.93-2.03 (m, 2H).

reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | propane-1,3-diamine | C(CCN)N | C3H10N2
reactant | 2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine | N1CCNCC2=C1C=CC=C2 | C9H12N2
product | N-[2-(1,2,3,5-Tetrahydro-4H-1,4-benzodiazepin-4-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | N1CCN(CC2=C1C=CC=C2)C=2N=C(C1=C(N2)C=CS1)NCCCN | C18H22N6S
